US06979741B2
4-[1′-(2,6-Diphenyl-pyridine-4-carbonyl)-[1,4′]bipiperidinyl-3-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester
(3R)-1′-[2,6-Diphenyl-pyridine-4-carbonyl]-[1,4′]bipiperidinyl-3-carboxylic acid ethyl ester (1.96 g, 3.94 mmol) was dissolved in tetrahydrofuran (20 mL) and lithium hydroxide monohydrate (3 eq, 0.5 g) in water (10 mL) was added. The two phase mixture was stirred for 16 hr at ambient temperature. Thin layer chromatography (19:1 dichloromethane-methanol) indicated no remaining starting material. 2M hydrochloric acid (6 mL) was added to adjust the pH to ˜5, about 2× the volume of the xylene was added and the mixture was evaporated to give a pale oil. This was further dried briefly under high vacuum then suspended in ethanol-free chloroform (˜30 mL), thionyl chloride added (5 mL) and the mixture heated under reflux, directing the evolved gases to a scrubber. After 30 minutes a further aliquot of thionyl chloride (5 mL) and chloroform (20 mL) were added and the reflux continued. After all the solid had dissolved (˜2 hr) the solvent was evaporated under vacuum. Anhydrous dichloromethane (30 mL) was added followed by a mixture of tert-butyl 1-piperazinecarboxylate (1.1 eq, 810 mg) and N,N-diisopropylethylamine (5 eq, 3.4 mL) in anhydrous dichloromethane (10 mL) was added. The cloudy mixture was stirred for 16 hr at ambient temperature then washed with 0.1M sodium hydroxide solution and the aqueous layer was extracted with dichloromethane (×3). The combined organic layers were dried over anhydrous sodium sulfate and evaporated to dryness under vacuum. The residue was purified by chromatography on 100 g silica gel/5% methanol-dichloromethane to give the title compound (1.78 g, 71%).

reactant | (3R)-1′-[2,6-Diphenyl-pyridine-4-carbonyl]-[1,4′]bipiperidinyl-3-carboxylic acid ethyl ester | 3.94 mmol, 1.96 g | C(C)OC(=O)[C@H]1CN(CCC1)C1CCN(CC1)C(=O)C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C31H35N3O3
reactant | lithium hydroxide monohydrate | 0.5 g, 3 eq | O.[OH-].[Li+]
reactant | hydrochloric acid | 2M, 6 mL | Cl | ClH
reactant | tert-butyl 1-piperazinecarboxylate | 810 mg, 1.1 eq | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 3.4 mL, 5 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | dichloromethane methanol | ClCCl.CO
product | 4-[1′-(2,6-Diphenyl-pyridine-4-carbonyl)-[1,4′]bipiperidinyl-3-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.78 g, 71% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CN(CCC1)C1CCN(CC1)C(=O)C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C38H47N5O4
